US08420865B2
Diphenylphosphine chloride (5 mmol, 0.92 ml) was dissolved in TIM (25 ml). The solution was cooled to 0° C. 4-Methoxyphenyl magnesium bromide (6.5 mmol, 19 ml, 1.3 eq) was added dropwise to the solution over 20 minutes. The mixture was stirred for 3 hours. The mixture was allowed to warm to room temperature, and then stirred for another 5 hours after which saturated NH4Cl (20 ml) was added thereto to terminate the reaction. The inorganic salt was removed by suction filtration and the filtrate was extracted with dichloromethane (40 ml×3). The extract was dried over sodium sulfate and concentrated using an evaporator and an oil pump to give diphenyl-4-methoxyphenylphosphine.

reactant | Diphenylphosphine chloride | 5 mmol, 0.92 ml | [Cl-].C1(=CC=CC=C1)PC1=CC=CC=C1
reactant | 4-Methoxyphenyl magnesium bromide | 6.5 mmol, 19 ml, 1.3 eq | COC1=CC=C(C=C1)[Mg]Br
solvent | NH4Cl | 20 ml | [NH4+].[Cl-]
product | diphenyl-4-methoxyphenylphosphine | C1(=CC=CC=C1)P(C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C19H17OP
